US04152327
10-Hydroxy-N,N,5,5-tetramethyl-8-(1,2-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridine-2-acetamide (VII)
The above-titled compound was prepared by reacting 10-hydroxy-5,5-dimethyl-8-(1,2-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridine with 2-chloro-N,N-dimethylacetamide according to the method of Example 2; m.p. 122°-124°.

reactant | 10-hydroxy-5,5-dimethyl-8-(1,2-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridine | OC1=CC(=CC2=C1C=1CNCCC1C(O2)(C)C)C(C(CCCCC)C)C | C23H35NO2
reactant | 2-chloro-N,N-dimethylacetamide | ClCC(=O)N(C)C | C4H8ClNO
product | 10-Hydroxy-N,N,5,5-tetramethyl-8-(1,2-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridine-2-acetamide | OC1=CC(=CC2=C1C=1CN(CCC1C(O2)(C)C)CC(=O)N(C)C)C(C(CCCCC)C)C | C27H42N2O3
